US06380218B1
(E)-2-(4-Fluorophenoxy)-3-[3-(4-methoxyphenyl)-1-propenyl]-pyridine
A mixture of 0.97 g (2.7 mmol) 2-(4-Fluorophenoxy)-a-[2-(4-methoxyphenyl)ethyl]-3-pyridinemethanol, 0.93 g (3.9 mmol) of Burgess Reagent, and 20 mL of benzene was heated to reflux for 4 h. The cooled mixture was partitioned between 300 mL of EtOAc and 100 mL of saturated aqueous sodium hydrogencarbonate solution, and the separated organic layer was washed with 100 mL of brine, dried (Na2SO4), and evaporated to 1.10 g of an oil. Purification by flash chromatography using 15% EtOAc-hexane as eluant gave 0.39 g (42% yield) of the title compound as an oil. 1H NMR (CDCl3) d 3.60 (2H, d, J=7 Hz), 3.82 (3H, s), 6.48 (1H, dt, J=7, 16 Hz), 6.78 (1H, d, J=16 Hz), 6.86-7.18(9H, m), 7.79 (1H, dd, J=2, 8 Hz), 7.99 (1H, dd, J=2, 5 Hz).

reactant | 2-(4-Fluorophenoxy)-a-[2-(4-methoxyphenyl)ethyl]-3-pyridinemethanol | 2.7 mmol, 0.97 g | FC1=CC=C(OC2=NC=CC=C2C(O)CCC2=CC=C(C=C2)OC)C=C1 | C21H20FNO3
reactant | Burgess Reagent | 3.9 mmol, 0.93 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | (E)-2-(4-Fluorophenoxy)-3-[3-(4-methoxyphenyl)-1-propenyl]-pyridine | 0.39 g, 42% yield | FC1=CC=C(OC2=NC=CC=C2\C=C\CC2=CC=C(C=C2)OC)C=C1 | C21H18FNO2
